US06420424B1
(S)-Ethyl-2-benzoylamino-3-(4-methoxyphenyl)propionate
N-Benzoyl-L-tyrosine ethyl ester (0.054 g, 0.17 mmol) was dissolved in DMF (1 mL). K2CO3 (1 eq, 0.17 mmol, 0.024g) was added, followed by methyl iodide (1 eq, 0.17 mmol, 0.011 mL). The slightly cloudy mixture was allowed to stir at room temperature under nitrogen for 3.5 hours. An additional 2 eq K2CO3 was added and the mixture was allowed to stir overnight. Water was poured into the flask, causing cloudiness. Precipitation was completed via refrigeration. The resulting white solid was filtered, washed well with water and dried in air (0.030 g, 54%).

reactant | N-Benzoyl-L-tyrosine ethyl ester | 0.17 mmol, 0.054 g | C(C)OC([C@@H](NC(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)O)=O | C18H19NO4
reactant | K2CO3 | 0.17 mmol, 0.024g, 1 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 0.17 mmol, 0.011 mL, 1 eq | CI | CH3I
reactant | K2CO3 | 2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-Ethyl-2-benzoylamino-3-(4-methoxyphenyl)propionate | C(C)OC([C@H](CC1=CC=C(C=C1)OC)NC(C1=CC=CC=C1)=O)=O | C19H21NO4
